US05218124
B. 4-(α-Hydroxyethyl)-4'-hydroxy-1,1'-biphenyl
A solution containing 4-acetoxy-4'-hydroxy-1,1'-biphenyl from part A (5.0 g, 23.6 mmol) in methanol (500 mL) and tetrahydrofuran (30 mL) is treated with sodium borohydride (0.9 g, 23.8 mmol) in portions over 30 minutes at room temperature. After 2 hours, the reaction mixture is concentrated under reduced pressure, diluted with water (400 mL), acidified with 2N HCl and extracted with ethyl acetate. The organic layer is washed with water and brine, dried over MgSO4 and concentrated to a solid residue. Crystallization of the solid from ethyl acetate gives 4.7 g (92.9%) of the title compound, m.p. 159°-160° C.; MS (EI m/z): 214 (M)+ and 199 (b.p. M--CH3)+.

reactant | 4-acetoxy-4'-hydroxy-1,1'-biphenyl | C(C)(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C14H12O3
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | sodium borohydride | 23.8 mmol, 0.9 g | [BH4-].[Na+]
solvent | methanol | 500 mL | CO | CH4O
product | 4-(α-Hydroxyethyl)-4'-hydroxy-1,1'-biphenyl | 4.7 g, 92.9% | OC(C)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C14H14O2
